US05935974
Preparation of α,α-bis-(4-fluorophenyl-1-(triphenylmethyl)-4-piperidinemethanol
1-Bromo4-fluorobenzene (154 ml; 1.402 mol) in anhydrous ether (640 ml) was added to a suspension of magnesium turnings (34.1 g; 1.404 mol) in anhydrous ether (250 ml) and the mixture was stirred under nitrogen, at a rate which gave a gentle reflux. The solution was cooled, stirred at room temperature for 45 min and then cooled in an ice bath. To this solution was added dropwise over 40 min. a solution of 1-(triphenylmethyl)-4-piperidinecarboxylic acid ethylester (90 g; 0.225 mol) in anhydrous tetrahydrofuran (1.2 l). After 1 h the cooling bath was removed and the reaction was allowed to stand at room temperature overnight. The reaction mixture was then heated under reflux for 30 min, poured into ice-water and the product was extracted into ethyl acetate. The extract was filtered to remove insolubles, washed with water, dried over sodium sulfate and evaporated to yield an oil which on trituration with hot n-hexane gave the product as crystals (68.0 g); m.p. 243° C.

reactant | 1-Bromo4-fluorobenzene | 1.402 mol, 154 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | magnesium | 1.404 mol, 34.1 g | [Mg] | Mg
reactant | 1-(triphenylmethyl)-4-piperidinecarboxylic acid ethylester | 0.225 mol, 90 g | C(C)OC(=O)C1CCN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO2
solvent | ether | 640 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 1.2 l | O1CCCC1 | C4H8O
product | 4-fluorophenyl-1-(triphenylmethyl)-4-piperidinemethanol | 68.0 g | FC1=CC=C(C=C1)C1N(CCC(C1)CO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H30FNO
